data/mechanisms/records/IMS8-EQ8.115b.json
{"mechanism_id": "IMS8-EQ8.115b", "species": [{"species_id": "steroid_tms_molecular_ion", "mapped_smiles": "[CH3:19][C:10]12[CH2:1][CH2:2][C:3](=[O+:25])[CH:4]=[C:5]1[CH2:6][CH2:7][CH:8]3[CH:9]2[CH2:11][CH2:12][C:13]4([CH3:18])[CH:14]3[CH2:15][CH2:16][CH:17]4[CH:20]([CH3:21])[CH2:22][CH2:23][CH2:24][O:26][Si:27]([CH3:28])([CH3:29])[CH3:30]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_a_dienol_tms_ion_196", "mapped_smiles": "[CH3:19][CH:10]1[CH2:1][CH2:2][C:3](=[CH:4][C:5]1=[CH2:6])[O+:25][Si:27]([CH3:28])([CH3:29])[CH3:30]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "cd_ring_diene_alcohol_neutral", "mapped_smiles": "[CH2:7]=[C:8]1[CH:9]=[CH:11][CH2:12][C:13]2([CH3:18])[CH:17]([CH:20]([CH3:21])[CH2:22][CH2:23][CH2:24][OH:26])[CH2:16][CH2:15][CH:14]12", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["steroid_tms_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["ring_a_dienol_tms_ion_196", "cd_ring_diene_alcohol_neutral"]}], "steps": [{"step_id": "step_remote_tms_migration_and_ring_b_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination_with_group_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 25]}, "target": {"type": "bond", "atom_maps": [25, 27]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [27, 26]}, "target": {"type": "atom", "atom_maps": [26]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [9, 10]}, "target": {"type": "bond", "atom_maps": [9, 11]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [11]}, "target": {"type": "atom", "atom_maps": [10]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_remote_tms_migration_and_ring_b_cleavage", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.115", "figure": null, "panel": "right-hand product of the single reaction arrow, labelled 'm/z 196, 100%'", "section": "8.11 Other rearrangements"}, "confidence": 0.45, "curator_note": "ARCS ACTUALLY DRAWN: ZERO. As for 8.115a, the equation carries one plain reaction arrow and no curved arrows, no fishhooks and no reaction-type label; all eight moves encoded here are curator-constructed. WHY THIS IS A SEPARATE RECORD: the book prints TWO products joined by 'and'. The second, 'm/z 196, 100%', is drawn as the same ring 'A' but with (CH3)3SiO- (bearing '+.') on the ring carbon, a ring C=C from that carbon, the same exocyclic =CH2 and the same methyl -- C11H20OSi+., m/z 196.128. Its TMS therefore sits on the ring-A oxygen, whereas the drawn substrate carries its TMS on the far end of the C24 side chain: the ion can only arise if the silyl group MIGRATES the whole length of the molecule first, which is precisely the 'other rearrangement' this section is about. WHAT IS CURATOR-ASSIGNED: (i) moves 1-4, the migration itself, encoded as a closed 2-electron cascade - C3=O pi -> O3-Si; Si-O24 sigma -> O24-H; C6-H -> C5=C6; C4=C5 pi -> C3=C4 - which converts the 4-en-3-one into the well known 3-silyloxy-3,5-diene and leaves a free 24-OH on the neutral; (ii) moves 5-8, the same ring-B double cleavage as 8.115a, here delivering H(C8) to C6 and H(C11) to C10, which is what the drawn ion demands (its C6 is a =CH2 with two hydrogens and its C10 carries one). ENCODING OF THE HYDROGEN TRANSFERS: hydrogens are implicit in the mapped SMILES (RDKit's parser deletes mapped [H] atoms, so an H cannot carry an atom map here), so each hydrogen shift is encoded as a two-electron atom->atom move from the donor heavy atom to the acceptor heavy atom - the convention already used in this corpus, e.g. IMS4-EQ4.33; move 2 (Si-O24 pair -> O24 non-bonding) and move 3 (C6-H pair -> C5=C6 pi) are the two halves of the C6-H -> O24-H transfer written the same way. The heavy-atom bond ledger is complete on its own: every sigma/pi bond that changes order is accounted for by a bond->bond move. The book draws neither the dienol-ether intermediate nor the neutral (C16H26O with C7=C8, C9=C11 and the 24-OH), so no intermediate state is asserted here."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 430.3262, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_196", "species_id": "ring_a_dienol_tms_ion_196", "step_id": "step_remote_tms_migration_and_ring_b_cleavage", "observed_mz": 196.1278, "relative_intensity": 1.0, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
